US04101659
A mixture of 6.38 g (0.017 mole) of N-benzhydryl-S-methylpseudothiourea monohydroiodide and 5.81 g (0.034 mole) of N-phenylpiperazine in t-BuOH is heated under reflux overnight. About 50 ml of moist 2-propanol is added and the mixture is then allowed to crystallize. The crude guanidine melts at 119°-120° C. Recrystallization from 1:2 MeOH/t-BuOH and then from 2-propanol gives pure N-diphenylmethyl-4-phenyl-1-piperazine-carboximidamide monohydroiodide hemihydrate; mp (113°-117°) 208°-210° C.

reactant | N-benzhydryl-S-methylpseudothiourea monohydroiodide | 0.017 mole, 6.38 g | I.C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(SC)=N
reactant | N-phenylpiperazine | 0.034 mole, 5.81 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-propanol | 50 ml | CC(C)O | C3H8O
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | N-diphenylmethyl-4-phenyl-1-piperazine-carboximidamide monohydroiodide hemihydrate | O.I.C1(=CC=CC=C1)C(NC(=N)N1CCN(CC1)C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)C(C1=CC=CC=C1)NC(=N)N1CCN(CC1)C1=CC=CC=C1.I | InChI=1S/2C24H26N4.2HI.H2O/c2*25-24(28-18-16-27(17-19-28)22-14-8-3-9-15-22)26-23(20-10-4-1-5-11-20)21-12-6-2-7-13-21;;;/h2*1-15,23H,16-19H2,(H2,25,26);2*1H;1H2
